US05206149
14.1 ml (107 mmol) of 3-bromobenzoic chloride and 1.7 g (10.5 mmol) of 4-aminoresorcinol hydrochloride were introduced into a three-necked flask provided with a thermometer and a cooling condenser, and the mixture was heated at 90° to 145° C. for 30 minutes. To the residue, an aqueous solution of sodium hydroxide and methanol were added into a homogeneous solution which was then stirred at room temperature for 2 hours. The reaction solution was extracted twice with ethyl acetate and washed with 1N hydrochloric acid then with a saturated sodium chloride solution. Distilling off the excessive ethyl acetate, the obtained precipitate was recrystallized with THF/water. There was obtained 0.68 g (2.35 mmol) of 2-(3-bromophenyl)-6-hydroxybenzoxazole, and the yield was 16.6%.

reactant | 3-bromobenzoic chloride | 107 mmol, 14.1 ml | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | 4-aminoresorcinol hydrochloride | 10.5 mmol, 1.7 g | Cl.NC1=C(C=C(O)C=C1)O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-(3-bromophenyl)-6-hydroxybenzoxazole | 2.35 mmol, 0.68 g, yield was 16.6% | BrC=1C=C(C=CC1)C=1OC2=C(N1)C=CC(=C2)O | C13H8BrNO2
